US05834468
Ethyl 4-[N-(2-benzyloxybenzylcarbonyl)-N-ethylamino]benzoate (8.1 g) was dissolved in THF (20 ml) and 1M borane tetrahydrofuran complex added. The reaction mixture was heated at reflux for 1 hour and cooled. 2N Hydrochloric acid (20 ml) was added. The volume of the reaction mixture was reduced to half the original by evaporation. Water (100 ml) was added and made basic (pH 8) by the addition of solid potassium carbonate and the mixture extracted with diethyl ether (3×30 ml). The combined extracts were dried over MgSO4 and evaporated. The residue was purified by MPLC, eluting with 1:1 dichloromethane/hexane, to give ethyl 4-[N-(2-(2-benzyloxyphenyl)ethyl)-N-ethylamino]benzoate (1.8 g) m.p. 76° C.

reactant | Ethyl 4-[N-(2-benzyloxybenzylcarbonyl)-N-ethylamino]benzoate | 8.1 g | C(C1=CC=CC=C1)OC1=C(CC(=O)N(CC)C2=CC=C(C(=O)OCC)C=C2)C=CC=C1 | C26H27NO4
reactant | Hydrochloric acid | 2N, 20 ml | Cl | ClH
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | ethyl 4-[N-(2-(2-benzyloxyphenyl)ethyl)-N-ethylamino]benzoate | 1.8 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)CCN(CC)C1=CC=C(C(=O)OCC)C=C1 | C26H29NO3
